US04146713
3-Morpholino-2-cyanoacrylamide
A stirred mixture of cyanoacetamide (63 g.), triethylorthoformate (134 g.), morpholine (82.5 g.) and acetonitrile (37.5 ml.) was heated under reflux for 4 hours. The initial reflux temperature was 117° C. and the final reflux temperature was 82° C.

reactant | cyanoacetamide | 63 g | C(#N)CC(=O)N | C3H4N2O
reactant | triethylorthoformate | 134 g | C(C)OC(OCC)OCC | C7H16O3
reactant | morpholine | 82.5 g | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 37.5 ml | C(C)#N | C2H3N
product | 3-Morpholino-2-cyanoacrylamide | O1CCN(CC1)C=C(C(=O)N)C#N | C8H11N3O2
